US04521325
Preparation of N-Cyclohexyl-1-(2-Hydroxyethyl)Hydrazinecarboxamide
To a solution of 2-hydroxyethylhydrazine (7.15 g, 0.09 moles) in 125 mL tetrahydrofuran was added dropwise with stirring 11.76 g (0.09 moles) cyclohexyl isocyanate in 70 mL tetrahydrofuran. The solution was stirred overnight at room temperature, and the solvent was evaporated to yield quantitatively a pale viscous oil which slowly crystallizes.

reactant | 2-hydroxyethylhydrazine | 0.09 moles, 7.15 g | OCCNN | C2H8N2O
reactant | cyclohexyl isocyanate | 0.09 moles, 11.76 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | N-Cyclohexyl-1-(2-Hydroxyethyl)Hydrazinecarboxamide | C1(CCCCC1)NC(=O)N(N)CCO | C9H19N3O2
